US08309580B2
(1) 4-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine
To a solution of cyclohexyl[2-methyl-5-(pyridin-4-yl)furan-3-yl]methanol (0.9 g) in toluene (10 mL) was added thionyl chloride (0.7 mL), and the mixture was stirred at room temperature overnight. The solvent was evaporated under reduced pressure to give the title compound (0.9 g, 100%) as a yellow crystal.

reactant | cyclohexyl[2-methyl-5-(pyridin-4-yl)furan-3-yl]methanol | 0.9 g | C1(CCCCC1)C(O)C1=C(OC(=C1)C1=CC=NC=C1)C | C17H21NO2
reactant | thionyl chloride | 0.7 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 4-{4-[chloro(cyclohexyl)methyl]-5-methylfuran-2-yl}pyridine | 0.9 g, 100% | ClC(C=1C=C(OC1C)C1=CC=NC=C1)C1CCCCC1 | C17H20ClNO
